US09227970B2
N4-Cyclopropyl-N4,1-dimethyl-N5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-1H-pyrazole-4,5-dicarboxamide
Using cyclopropyl-methyl-amine and 1-methyl-5-(2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. White solid (71 mg, 44%). Mp.: 237° C. MS: m/z=417.3 (M+H+). Ames test negative.

reactant | cyclopropyl-methyl-amine | C1(CC1)NC | C4H9N
reactant | 1-methyl-5-(2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)C=2C=NC=CC2)=O)C(=O)O | C17H13N7O3
product | N4-Cyclopropyl-N4,1-dimethyl-N5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-1H-pyrazole-4,5-dicarboxamide | C1(CC1)N(C(=O)C=1C=NN(C1C(=O)NC=1C=CC=2N(C1)N=C(N2)C=2C=NC=CC2)C)C | C21H20N8O2
